US06599902B2
Synthesis of 3-[1-{4-[2-((3R,5S)-3,5-Dimethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one
A mixture of 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one (100 mg, 0.35 mmol), 4-[2-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (184 mg, 0.68 mmol) and piperidine (0.5 eq.) in ethanol (2 mL) was stirred at rt for 48 hours. The reaction was concentrated and triturated with acetone to give the titled compound as a pale orange-red solid.

reactant | 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | 0.35 mmol, 100 mg | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 4-[2-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 0.68 mmol, 184 mg | C[C@@H]1CN(C[C@@H](N1)C)C(CC=1C(=C(NC1C)C=O)C)=O | C15H23N3O2
reactant | piperidine | 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[1-{4-[2-((3R,5S)-3,5-Dimethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | C[C@@H]1CN(C[C@@H](N1)C)C(CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O)C)=O | C30H34N4O4S
